Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Penicillins / Iodine / fluoxetine
 
Attending: ___.
 
Chief Complaint:
Dyspnea, acute CHF exacerbation
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
Mrs. ___ is a ___ y/o F with a PMH of ILD, PE on warfarin, 
and elevated ___, presenting with worsening DOE and ___ edema 
over the past 3 weeks. The patient originally presented for hip 
pain to ___. She was found to have respiratory distress 
which she noted has been worsening over the last few weeks. 
During a recent visit to her PCP ___ ___ the patient was noted 
to have mild tachypnea despite her weight being "under her 
baseline" at 218Lbs. She was switched from torsemide 80mg to 
Bumex 2mg for her fluid overload ___ to presumed pulmonary 
hypertension. When she arrived at outside hospital they 
initially gave 500 cc of fluid, asa 325mg and heparin given 
elevated troponin and tachypnea for presumed NSTEMI. The patient 
had an xray and was transferred to ___ for management 
of a presumed CHF exaccerbation. Prior to leaving ___ it 
was reported that the patient diuresed approximately 1500cc 
wihtout active diuresis.  
 
On arrival to the ED in ___ the patient continued to complain 
of chronic hip pain and remained dyspnic. Patient's initial 
vitals were 97.9 105 109/70 26 96% bipap. Patient noted to have 
increased intersitial edema noted on CXR and prominent pulmonary 
vasculature markings. She was given 40mg of IV Lasix x2 in the 
ED. The patient also had a full set of labs showing a trop of 
0.21, WBC of 11.7, INR of 1.5 (patient holding warfarin for 
procedure for hip pain) and proBNP of 4442. Her lactate notably 
decreased from 4 to 1.7 after transfer from the OSH. Given 
continued respiratory distress and signs of fluid overload the 
patient was evaluated by the at___ cardiology and cardiology 
fellow for admission to the CCU. 

On arrival to the CCU, the patient reports shortness of breath 
and pain in her hip. The patient also reported being tired since 
she has been unable to get any sleep throughout the night.
 
 
Past Medical History:
PAST MEDICAL HISTORY:
-diastolic CHF with EF 75%  
-pulmonary HTN 
-Interstitial lung disease. No biopsy, but pulmonary notes 
indicate that imaging is most consistent w/ NSIP, not IPF.
-Elevated ___ (1:1280) in ___: Patient has declined further 
work-up in the past
-HTN 
-Past TB exposure at ___ (former nurse); negative CXR, 
INH for one year per protocol
-Chronic Venous stasis
-Cataracts: S/p cataract surgery
-Astigmatism
-s/p TAH
-s/p tonsillectomy
-s/p appendectomy

 
Social History:
___
Family History:
- Sister: breast cancer in her ___
- Niece (sister's daughter): breast cancer in her ___
- Niece (sister's other daughter): lung cancer in her ___ 
non-smoker
- No significant FHx of CAD.
- No FHx clotting disorders or autoimmune disorders.
 
Physical Exam:
===============
ADMISSION EXAM:
===============
VS: per metavision
Weight: 215lbs
Tele: sinus rhythm
General: AOX3, NAD
HEENT: Normocephalic, Atraumatic, MMM
Lungs: Fine crackles bilaterally to mid lung fields. 
CV: JVP elevated to jaw, Nl S1/S2, soft systolic ejection murmur 
heard at right ___ intercostal space 
Abdomen: soft, non-tender, non-distended
Ext: 3+ bilateral pitting edema at ankles extending up to sacrum
Neuro: AOX3; patient sedated but responsive

===============
DISCHARGE EXAM:
===============

Vitals: Tm 98.2 BP 100s-130s/60s-80s  P ___ R ___ SatO2 
95-100/2L
General: AOX3, NAD, leaning over to the left side dozing off  
Lungs: coarse crackles bilaterally  
CV: unable to appreciate JVD, RR, ___ holosystolic murmur
Abdomen: soft, non-tender, non-distended  
Ext: 2+ bilateral pitting edema to the knees, trace edema above 
the knees  

 
Pertinent Results:
===============
ADMISSION LABS:
===============
___ 04:55PM   PTT-150*
___ 03:30PM   TYPE-ART PO2-70* PCO2-36 PH-7.52* TOTAL 
CO2-30 BASE XS-5 INTUBATED-NOT INTUBA COMMENTS-NASAL ___
___ 03:30PM   O2 SAT-94
___ 03:11PM   GLUCOSE-120* UREA N-13 CREAT-1.0 SODIUM-137 
POTASSIUM-4.2 CHLORIDE-99 TOTAL CO2-27 ANION GAP-15
___ 03:11PM   CK(CPK)-65
___ 03:11PM   CK-MB-2
___ 03:11PM   CALCIUM-7.8* PHOSPHATE-2.7 MAGNESIUM-1.6
___ 09:19AM   SODIUM-141 POTASSIUM-3.4 CHLORIDE-100
___ 06:02AM   ___ TEMP-36.5 RATES-/35 O2-100 PO2-28* 
PCO2-53* PH-7.40 TOTAL CO2-34* BASE XS-4 AADO2-634 REQ O2-100 
INTUBATED-NOT INTUBA
___ 06:02AM   LACTATE-1.9
___ 05:51AM   GLUCOSE-112* UREA N-12 CREAT-1.2* SODIUM-138 
POTASSIUM-5.5* CHLORIDE-99 TOTAL CO2-26 ANION GAP-19
___ 05:51AM   CK(CPK)-101
___ 05:51AM   CK-MB-3 cTropnT-0.14*
___ 05:51AM   CALCIUM-7.9* PHOSPHATE-3.5 MAGNESIUM-1.8
___ 05:51AM   WBC-9.7 RBC-3.40* HGB-10.8* HCT-32.8* MCV-97 
MCH-31.8 MCHC-32.9 RDW-13.1 RDWSD-46.5*
___ 05:51AM   PLT COUNT-195
___ 05:51AM   ___ PTT-26.6 ___
___ 05:28AM   VoidSpec-QNS NOTIFI
___ 01:21AM   LACTATE-1.7
___ 01:15AM   GLUCOSE-130* UREA N-11 CREAT-1.2* SODIUM-139 
POTASSIUM-3.5 CHLORIDE-99 TOTAL CO2-27 ANION GAP-17
___ 01:15AM   estGFR-Using this
___ 01:15AM   cTropnT-0.21*
___ 01:15AM   proBNP-4442*
___ 01:15AM   CALCIUM-8.3* PHOSPHATE-3.1 MAGNESIUM-1.7
___ 01:15AM   WBC-11.7* RBC-3.42* HGB-10.9* HCT-32.7* 
MCV-96 MCH-31.9 MCHC-33.3 RDW-12.9 RDWSD-44.9
___ 01:15AM   NEUTS-76.1* LYMPHS-13.8* MONOS-8.6 EOS-0.4* 
BASOS-0.3 IM ___ AbsNeut-8.91* AbsLymp-1.61 AbsMono-1.01* 
AbsEos-0.05 AbsBaso-0.03
___ 01:15AM   PLT COUNT-214
___ 01:15AM   ___ TO  PTT-UNABLE TO  ___ 
TO 
___ 01:14AM   O2 SAT-54

==================
PERTINENT RESULTS:
==================

TTE ___:
Conclusions  
The left atrium is elongated. There is mild symmetric left 
ventricular hypertrophy with normal cavity size. Due to 
suboptimal technical quality, a focal wall motion abnormality 
cannot be fully excluded. Left ventricular systolic function is 
hyperdynamic (EF>75%). The estimated cardiac index is normal 
(>=2.5L/min/m2). The aortic valve leaflets (3) are mildly 
thickened. There is a minimally increased gradient consistent 
with minimal aortic valve stenosis. Mild (1+) aortic 
regurgitation is seen. The mitral valve leaflets are mildly 
thickened. There is no mitral valve prolapse. Trivial mitral 
regurgitation is seen. There is mild pulmonary artery systolic 
hypertension. There is no pericardial effusion. 
IMPRESSION: Suboptimal image quality. Mild symmetric left 
ventricular hypertrophy with normal chamber size and 
hyperdynamic systolic function. Right ventricle not well see but 
systolic function appears normal. Mild aortic regurgitation. 
Mild to moderate tricuspid regurgitation with mild pulmonary 
hypertension. 
Compared with the prior study (images reviewed) of ___ the 
apical windows on the current study are poor. There is slightly 
more aortic regurgitation. Pulmonary artery pressures are lower 
(but there were limited windows for interrogation so the current 
study could have underestimated). Other findings are not 
significantly changed.   

CXR ___:
Mild pulmonary edema superimposed on background interstitial 
lung disease.

CTA ___: 
Pulmonary embolism in all 3 main lobar branches of the right 
pulmonary artery as well as the main lobar branches supplying 
the lingula and left upper lobe. 

MRI Brain (___):
1. No acute infarction or hemorrhage. 
2. No significant abnormalities on MRA of the head although 
slightly limited 
by motion. 

CT head (___):
Mild brain atrophy and small vessel disease are identified.  No 
hemorrhage 
mass effect midline shift or hydrocephalus seen.  A tiny chronic 
right 
cerebellar infarct noted.  Bone images are unremarkable.  
Visualized paranasal sinuses are clear. 

===============
DISCHARGE LABS:
===============

___ 05:35AM BLOOD WBC-14.3* RBC-3.73* Hgb-11.7 Hct-35.4 
MCV-95 MCH-31.4 MCHC-33.1 RDW-13.4 RDWSD-46.5* Plt ___
___ 06:00AM BLOOD Neuts-77.8* Lymphs-13.9* Monos-5.9 
Eos-0.8* Baso-0.3 Im ___ AbsNeut-14.58*# AbsLymp-2.61 
AbsMono-1.11* AbsEos-0.15 AbsBaso-0.06
___ 05:35AM BLOOD Plt ___
___ 05:35AM BLOOD ___ PTT-86.5* ___
___ 05:35AM BLOOD Glucose-88 UreaN-35* Creat-1.2* Na-140 
K-3.8 Cl-94* HCO3-31 AnGap-19
___ 08:00AM BLOOD ALT-24 AST-27 AlkPhos-114* TotBili-0.4
___ 05:35AM BLOOD Calcium-9.9 Phos-4.1 Mg-2.0
___ 07:10PM BLOOD ___ pO2-47* pCO2-59* pH-7.38 
calTCO2-36* Base XS-7 Comment-GREEN TOP
 
Brief Hospital Course:
Ms. ___ has a history CHF, PE, ILD presenting with CHF 
exacerbation after having her home torsemide dose decreased to 
40 mg. She was treated with a Lasix gtt and improved 
symptomatically. She had a CTA chest that showed new b/l PEs in 
the setting of holding her warfarin for an SI injection. She 
also had episodes of decreased responsiveness and alertness that 
were initially concerning for stroke. However, a stroke work-up 
and Neurology evaluation revealed no evidence of stroke or 
stroke deficits.

ACUTE ISSUES:

#) ACUTE DECOMPENSATED DIASTOLIC HEART FAILURE: 
LVEF >75%% ___ to ILD and Pulmonary Hypertension. Pt with 
subacute progression of dyspnea ___ heart failure with 
underlying ILD and pulmonary HTN. Elevated troponin likely 
secondary to heart strain from fluid overload. Has now returned 
to her baseline oxygen requirement of 2 L, remains mildly 
hypervolemic on examination, and responding appropriately to 
diuresis with lasix IV, then transitioned to home torsemide 80 
mg BID.

# PE: 
Pt with hx of PE. Upon thorough assessment of recent coumadin 
dosing, she has been subtherapeutic in ___ for a period 
of time during which she was preparing for a procedure. CTA 
showed PE in all 3 main lobar branches of the right pulmonary 
artery as well as the main lobar branches supplying the lingula 
and left upper lobe.  Patient was on heparin IV gtt, re-dosing 
warfarin daily for therapeutic INR. On discharge continuing on 
warfarin at 5 mg on ___, with INR of 2.2.

# Episode of drowsiness/non-responsiveness:
Resolved: Patient had episode of sudden onset drowsiness and 
decreased responsiveness concerning for stroke, with CT head and 
MRI/MRA brain revealing no abnormalities or acute process. At 
baseline she has left facial droop. ABG showed pH 7.48 and 
lactate 2.2, with pCO2 39, which indicates that she is not 
hypercarbic. She currently has no anion gap. It is less likely 
due to hepatic encephalopathy, given normal AST/ALT, and also 
less likely infection since she has been afebrile and her 
leukocytosis is likely due to chronic steroids. Neurology was 
consulted, did EEG, and it showed no epileptiform activity. On 
___ had second episode of lethargy, similar to first. 
Lactate 3.2, no neuro deficits. Touched base w/Neurology on 
___: based on their exam on ___ and the negative results of 
CT head and MRI head, they don't recommend further work-up; the 
EEG from ___ shows no epileptiform activity. ABG (___) pH 
7.38 pCO2 59  pO2 47  HCO3 36, lactate 2.5. UA large 
leukesterase and WBC 43 on ___. Per Neurology consult, motor 
deficits of LUE are consistent with cervical myelopathy, and the 
etiology of her symptoms could be multifold with general 
deconditioning from a prolonged hospital course and increased 
work of breathing prior to admission, in addition to her 
baseline connective tissue disease. Per Neurology recs, consider 
C-spine and lumbar-spine MRI as outpatient after rehab to 
evaluate cervical myelopathy and RLE deficits.

CHRONIC ISSUES:    

# Rheumatalogic disease: 
The patient has an unclear history of rheumatologic disease, 
with positive ANAs in the past. During prior admission ___, Ro 
and Sm antibodies were positive. She was diagnosed with 
undifferentiated connective tissue disease (CTD). Patient was on 
steroids as outpatient for concurrent treatment with her ILD. 
Continued home prednisone 20mg, atovaquone suspension.

# ILD  
Patient's underlying cause of the ILD is unknown. Her last echo 
showed an estimated PAPs of 33 giving evidence of PHTN. The 
patient has had relatively stable symptoms over the past few 
years; however, her chest xray on admission is worse, possibly 
___ to overlying edema on ILD. Continued prednisone as above, 
inhalers.  

TRANSITIONAL ISSUES:

- anticoagulation: pt was found to have b/l PEs on CTA chest 
after having Coumadin briefly held in preparation for SI 
injection. She should NOT stop warfarin even for procedures. Her 
regimen is warfarin 5 mg daily.

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Albuterol Inhaler 2 PUFF IH Q6H:PRN shortness of breath 
2. Omeprazole 20 mg PO DAILY 
3. Atovaquone Suspension 1500 mg PO DAILY PCP ___  
4. Docusate Sodium 100 mg PO BID 
5. Bumetanide 2 mg PO DAILY 
6. PredniSONE 10 mg PO DAILY 
7. Warfarin Dose is Unknown  PO DAILY16 
8. Cyclobenzaprine 10 mg PO TID:PRN muscle pain/spasm 
9. calcium carbonate-vitamin D3 500 mg(1,250mg) -125 unit oral 
BID 

 
Discharge Medications:
1. Docusate Sodium 100 mg PO BID 
2. PredniSONE 10 mg PO DAILY 
3. Warfarin 5 mg PO DAILY16 
4. Aspirin 81 mg PO DAILY 
5. Albuterol Inhaler 2 PUFF IH Q6H:PRN shortness of breath 
6. Bumetanide 2 mg PO DAILY 
7. calcium carbonate-vitamin D3 500 mg(1,250mg) -125 unit oral 
BID 
8. Cyclobenzaprine 10 mg PO TID:PRN muscle pain/spasm 
9. Omeprazole 20 mg PO DAILY 

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Primary diagnosis: 
CHF exacerbation 
New pulmonary embolisms 

Secondary diagnosis: 
H/o PE 
interstitial lung disease 
Elevated ___ 

 
___ Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear Ms. ___, 

You were admitted for increased fluid retention after your home 
dose of Torsemide was changed. You were treated with IV 
diuretics and improved greatly. You were also found to have new 
blood clots in your lungs, although they didn't injure your lung 
tissue. This means that you should NEVER stop taking warfarin, 
even before procedures. Please follow up with your doctors as 
___ below. 

It was a pleasure taking care of you and we wish you the best! 

Sincerely,
Your ___ cardiology team 
 
Followup Instructions:
___